US05006534
1-(3-Methylphenyl)pentanol
Thereafter, the mixture is heated under reflux for 1 hour and then cooled to 0° C. 60 g of 3-methylbenzaldehyde, dissolved in 250 ml of absolute ether, are added dropwise at 0° C. The reaction solution is left to stand overnight and is then poured onto 1 l of ice-water. The reaction mixture is acidified with 2N hydrochloric acid. The organic phase is separated off, the aqueous phase is extracted twice with 300 ml of ethyl acetate each time and the combined organic phases are washed twice with 200 ml of water each time, dried over MgSO4 and evaporated on a rotary evaporator in vacuo. The residue is distilled at 64°-66° C./0.02 mm.

reactant | 3-methylbenzaldehyde | 60 g | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ether | 250 ml | CCOCC | C4H10O
product | 1-(3-Methylphenyl)pentanol | CC=1C=C(C=CC1)C(CCCC)O | C12H18O
